US04060528
A suspension of 4.9 parts of sodium cyanide in 55 parts of dimethyl sulfoxide is stirred while heating to 60° C. Then there are added at once 8.5 parts of p-(1-chloroethyl)phenyl 2-thienyl ketone and stirring at 60° C is continued for 4h.30. The reaction mixture is poured onto water and the product is extracted with ether. The organic layer is washed with water, dried, filtered and evaporated, yielding p-(2-thenoyl)hydratroponitrile as a residue.

reactant | sodium cyanide | [C-]#N.[Na+]
reactant | p-(1-chloroethyl)phenyl 2-thienyl ketone | S1C(=CC=C1)C(=O)C1=CC=C(C=C1)C(C)Cl | C13H11ClOS
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | p-(2-thenoyl)hydratroponitrile | C1(=CC=CS1)C(=O)C1=CC=C(C(C#N)C)C=C1 | C14H11NOS
